US08067598B2
6-Methoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-2,3,4,9-tetrahydro-1H-β-carboline
A mixture of 91 mg (0.24 mmol) 6-methoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,9-dihydro-3H-β-carboline and 27.7 mg (0.73 mmol) sodium borohydride in 5 mL ethanol was stirred for 2 h at room temperature. The mixture was filtered and evaporated to dryness. Trituration with ethyl acetate yielded after drying 90 mg (98%) of the title compound as light yellow solid.

reactant | 6-methoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-4,9-dihydro-3H-β-carboline | 0.24 mmol, 91 mg | COC=1C=C2C=3CCN=C(C3NC2=CC1)CCC1=CC=C(C=C1)C(F)(F)F | C21H19F3N2O
reactant | sodium borohydride | 0.73 mmol, 27.7 mg | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-Methoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-2,3,4,9-tetrahydro-1H-β-carboline | COC=1C=C2C=3CCNC(C3NC2=CC1)CCC1=CC=C(C=C1)C(F)(F)F | C21H21F3N2O
